US07105533B2
Ethyl(triphenylphosphoranylidene)acetate (550 mg, 1.6 mmol) and 3-methoxy-4-pyridin-2-ylbenzaldehyde (225 mg, 1.1 mmol) were dissolved in CH2Cl2 (5 mL) and stirred at rt for 12 h. The reaction mixture was concentrated and purified by flash column chromatography on silica gel eluting with EtOAc:hexanes (1:9 to 2:3) to afford the desired ethyl(2E)-3-(3-methoxy-4-pyridin-2-ylphenyl)prop-2-enoate.

reactant | Ethyl(triphenylphosphoranylidene)acetate | 1.6 mmol, 550 mg | C(C)OC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C22H21O2P
reactant | 3-methoxy-4-pyridin-2-ylbenzaldehyde | 1.1 mmol, 225 mg | COC=1C=C(C=O)C=CC1C1=NC=CC=C1 | C13H11NO2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | ethyl(2E)-3-(3-methoxy-4-pyridin-2-ylphenyl)prop-2-enoate | COC=1C=C(C=CC1C1=NC=CC=C1)/C=C/C(=O)OCC | C17H17NO3
